US05034539
n) Ethyl 3-oxo-3-(1-triphenylmethyl-1H-imidazol-4-yl)propionate
202.65 g (0.55 mol) methyl (1-triphenylmethyl-1H-imidazol-4-yl)carboxylate are dissolved in 0.8 l dry toluene at 85° C. 44 g (1.1 mol) sodium hydride (60% dispersion in mineral oil) are added. To the stirred mixture 96.92 g (1.1 mol) ethyl acetate are dropped over 2 hours. The mixture is allowed to react 16 hours at 70° C. Subsequently the toluene is removed under reduced pressure. The resulting mixture is introduced into the following step without purification. For analytical purposes a small amount of the brown oily residue is dissolved in methylene chloride, washing with aqueous ammonium chloride solution and water, drying by means of sodium sulphate and evaporation lead to an oil. Crystallization with diethyl ether and recrystallization from ethanol/diethyl ether afford the title compound as white crystals, melting point 136°-139° C.

reactant | methyl (1-triphenylmethyl-1H-imidazol-4-yl)carboxylate | 0.55 mol, 202.65 g | C1(=CC=CC=C1)C(N1C=NC(=C1)C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O2
reactant | sodium hydride | 1.1 mol, 44 g | [H-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 0.8 l | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-oxo-3-(1-triphenylmethyl-1H-imidazol-4-yl)propionate | O=C(CC(=O)OCC)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N2O3
